US04659813
Another 131 ml aliquot of the ceftazidime solution prepared as described above was adjusted to and maintained at 5° C. and the pH adjusted to 3.5 with 15.2 ml of 1.83M hydrochloric acid. The stirred solution was seeded with ceftazidime pentahydrate crystals and crystallization began. After one hour, the pH of the crystal slurry was readjusted from 4.55 to 3.50 with an additional 2.90 ml of 1.83M hydrochloric acid. The slurry was stirred for three more hours and then filtered. The crystals were washed with 150 ml of chilled water and 100 ml of chilled acetone and air dried. There were obtained 19.3 g of ceftazidime pentahydrate which assayed as follows: HPLC potency, 83.2% (as is); polymer (stressed), 0.82%; related substances, 1.04%; Karl Fischer, 13.9%.

reactant | ceftazidime | CC(C)(C(=O)O)O/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)C[N+]=4C=CC=CC4)C(=O)[O-] | C22H22N6O7S2
reactant | hydrochloric acid | 1.83M, 15.2 ml | Cl | ClH
product | ceftazidime pentahydrate | 19.3 g | CC(C)(C(=O)O)O/N=C(\C1=CSC(=N1)N)/C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)C[N+]4=CC=CC=C4)C(=O)[O-].O.O.O.O.O | InChI=1S/C22H22N6O7S2.5H2O/c1-22(2,20(33)34)35-26-13(12-10-37-21(23)24-12)16(29)25-14-17(30)28-15(19(31)32)11(9-36-18(14)28)8-27-6-4-3-5-7-27;;;;;/h3-7,10,14,18H,8-9H2,1-2H3,(H4-,23,24,25,29,31,32,33,34);5*1H2/b26-13+;;;;;/t14-,18-;;;;;/m1...../s1
